Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Lovenox
 
Attending: ___.
 
Chief Complaint:
Increased seizure frequency
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man who suffers from refractory
epilepsy secondary to an intrauterine left MCA stroke with
residual right hemiparesis who presents with increasing seizure
frequency. He also has a history of unprovoked DVT/PEs with
unrevealing hypercoagulable workup and has been maintained on
warfarin for ___ years. History obtained by Mr. ___ with
supplementation per chart review. 

Mr. ___ follows with Dr. ___ and is maintained on on keppra
2g BID, phenobarbital 129/64.8, and phenytoin ER 300/200. He has
approximately one breakthrough seizure a month and as such is
considering VNS candidacy. 

His seizure semiology is described as follows:

"1. Focal seizure with impaired awareness and secondary
generalization: right arm stiffening followed by generalization
and ___ min post-ictal confusion. Duration: ___ seconds
Frequency: none for "years"
2. Focal seizure with retained awareness: right arm dystonic
posturing/elevation, occasional jaw clenching, some difficulty
speaking, no post-ictal confusion. One event associated with
agitation/refusing to talk to bystanders. Duration: ___ 
seconds.
Frequency: monthly
3. Loss of consciousness episodes: initiate with right arm
raising; no tongue biting or incontinence; occasional post-ictal
agitation."

Today, he reports that he was in his usual state of health up
until last week, when he noted that he was suffering from
indigestion with increased burping frequency. He treated his
symptoms with pepto-bismol. He had no fever, chills, nausea,
vomiting, diarrhea during this period of time. He continued to
take all of his medications, including his AEDs, on schedule
(typically ___ and 11PM-12AM), noting that he is a night 
owl.

His seizure clusters began on ___ morning. He woke up at 2AM,
as he usually does to start exercising at 4AM. He walked around
and thinks he had a seizure, as he woke up on his butt. He 
thinks
he probably had a ___ second seizure. He thinks that there was
a woman calling someone on her cell phone when he woke up, and 
he
recalls telling her "___, who are you calling?" and then 
walking
away. He said EMS came to him several blocks away and as they
were familiar with his seizure semiology and history, they
recommended that he go home to rest after evaluating him. He
doesn't think he hit his head and wasn't confused and was 
without
signs of incontinence. He was able to continue his day without
difficulty. 

On ___, he was with his sister and was walking up his stairs
when he had a seizure that consisted of right arm jerking with
impaired awareness. He did not his his head on this occasion. 
His
sister saw the seizure and thought it was consistent with prior
seizures. He was not confused after the event and continued his
activities. Unclear how long this seizure lasted.

On ___, he had another seizure while eating a bowl of
cereal for breakfast. His sister noted that this seizure lasted 
a
few seconds. He was just bringing the spoon to his mouth when 
his
arm began to shake and the bowl flipped. He lost consciousness
and then came too and his sister noted that he was back to his
baseline. Assumption at this time was an event <15 seconds. 

On ___, he did not have any seizures.

On ___, he was crossing the street outside ___ to see his
new hematologist for continuity of coumadin/hypercoaguable care.
He remembers walking across the street and feeling discomfort in
his right knee. The next thing he knows, EMS was at his side. He
thinks he fell in the rain as his pants were wet, but confirms
that it does not smell as if he lost urinary continence. 

He endorses no recent fevers, chills, sicknesses, head trauma. 
He
is adherent to all of his AEDs on a ~ 12 hr schedule. He does 
not
endorse change in sleep habit. No recent stressors and no new
medications. He does note some left finger pain from his fall
today.

Additional Epilepsy History:
===========================
Per Dr. ___:
"He was originally
followed by Dr. ___, but was lost to follow-up after
losing his insurance. He re-presented to the comprehensive
epilepsy clinic on ___. Past EEGs showed independent 
frequent
epileptiform discharges from the left frontotemporal and right
frontal temporal regions.
He described three seizure types as follows: 

SEIZURE TYPE 1: Right arm elevation with stiffening. He feels
confused for ___ minutes afterwards. He experienced this type of
seizure from ___ but none after ___ years of age. 

SEIZURE TYPE 2:  Starts with right arm elevation, dystonic
posturing or jaw clenching. He retains awareness with some mild
difficulty getting words out. There is no post ictal confusion.
Seizure last from ___ seconds and rarely up to ___ seconds. 

SEIZURE TYPE 3: He describes these as "blackout" seizures. There
is no aura or other warning sign prior to suddenly losing
consciousness. Occasionally he will experience postictal
agitation or anger lasting a few minutes. These events first
started in ___ after Tegretol was stopped due to lack of 
medical
coverage."

Last notable cluster of seizure breakthroughs occurred in
___, after  which his keppra was increased from 1500mg 
BID
to ___ BID. In ___, he was found to have elevated
phenytoin levels (34.8 with symptoms of dizziness/nystagmus) and
his phenytoin was decreased from 300mg BID to ___ mg. 

Prior AEDs:
tegretol - stopped in ___ insurance
lacosamide - stopped in ___ insurance/copay
zonisamide - unclear if he ever took this

Most recent levels:
=================
___ PhenytoinL 20.3; Phenobarb 32.3; Keppra 26.8
___ Keppra level - 21 (just prior to increase to 2g BID)

Prior imaging:
=============
___ MRI w and wo contrast - left frontoparietal cystic
encephalomalacia; left cerebral hemimicrocephaly consistent with
congenital infract.hypoplasia of left MCA. no evidence of
hemorrage. Right parotid mass (stable)

EEG ___ - frequent runs of right temporal discharges rapidly
spreading to involve entire right hemisphere without apparent
clinical correlate; occasional left posterior frontal to 
anterior
temporal discharges 

 
Past Medical History:
Unprovoked DVT/PE on coumadin
IVC filter
H/o intrauterine left MCA w residual right hemiparesis
Epilepsy
Dermatitis
Allergic rhinitis
s/p knee surgery ___
 
Social History:
___
Family History:
Mother - cancer, unknown 
Father - melanoma
Brother - alcohol abuse
Sister - alcohol abuse
___ Grandfather - colon cancer

 
Physical Exam:
ON ADMISSION:
====================
Vitals: T97, HR80, RR16, BP 130/86; SaO2 97

General: Awake, cooperative, NAD.
HEENT: no oral lesions, no scalp lacerations, no hematoma
Neck: Supple. No nuchal rigidity
Pulmonary: Breathing comfortably on room air
Cardiac: wellperfused
Abdomen: soft, non-tender
Extremities: bilateral ___ edema, non-pitting; calves in
compression stockings
Skin: bilateral venous stasis in ___

Neurologic:
-Mental Status: Alert, oriented x 3. Initially says "President
___ then corrects to Trump. Able to relate history and is
attentive to examiner. Able to name ___ backward without
difficulty. Language is with haltering speech output (slight
pauses in rhythm of word output) with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able high frequency objects but had difficulty with low
frequency objects (my gold watch clasp, he called 'gold'. for
knucle, he noted "cartilage").  Able to read without difficulty.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves: Right pupil 3>2.5 with APD. Left pupil 5>3.
Visual fields on right limited to finger movement, intact on 
left
to finger counting. Bilateral direction-changing nystagmus on
end-gaze, more prominent/sustained on right lateral gaze. Right
NLFF with delayed activation. Tongue protrudes to left vs
illusion ___ right NLFF. Speech not dysarthric. 

-Motor: Normal bulk. right UE is with increased tone. Right
pronator drift. No adventitious movements, such as tremor, 
noted.
No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  4+   5   4+  ___  4  4+  5    5  4+    5     4   4

-Sensory: No deficits to light touch. Decreased sensation to
pinprick and vibration on right hemi-body compared to left with
facial sparing. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   0
R  2  2    2    1   0
Plantar response was extensor on right and flexor on left.
 
-Coordination: No intention tremor. No dysmetria on FNF.

ON DISCHARGE:
================
24 HR Data (last updated ___ @ 1550)
    Temp: 97.4 (Tm 98.1), BP: 120/69 (97-121/66-77), HR: 66
(66-77), RR: 20 (___), O2 sat: 100% (95-100), O2 delivery: RA  


GEN: NAD 
HEENT: right firm, mobile 3x3 cm parotid mass, rosacea L>R,
gingival hyperplasia
CV: RRR. 2+ pulses throughout
Pulm: Room air
Abd: s/nt/nd
Ext: right fingers pale and cold compared to left, patient says
this has been intermittent throughout his life and worse in
___.

Neuro:
-MS: Alert and oriented x3, language fluent, no dysarthria,
attentive follows all commands.
-CN:PERRL with nystagmus on right beating nystagmus on right
gaze, EOMI, right NLFF with decreased activation.
-Motor: Decreased bulk right upper extremity compared to left.
mild right drift and pronation. Mild ___ weakness right wrist
extension, finger extension/flexion, IOs and right IP.  ___ IP
weakness, but otherwise full.

Sensation intact to light touch throughout.

Coordination: ataxia on right FNF
Gait: steady gait

 
Pertinent Results:
CBC:
___ 08:53AM BLOOD WBC-5.6 RBC-3.87* Hgb-12.8* Hct-37.8* 
MCV-98 MCH-33.1* MCHC-33.9 RDW-12.2 RDWSD-43.8 Plt ___
___ 06:04AM BLOOD ___

CMP:
___ 10:46AM BLOOD Glucose-173* UreaN-13 Creat-0.8 Na-136 
K-4.4 Cl-100 HCO3-22 AnGap-14
___ 10:10PM BLOOD ALT-22 AST-16 AlkPhos-105
___ 10:46AM BLOOD Calcium-8.3* Phos-3.4 Mg-2.0

STROKE RISK FACTORS:
___ 10:10PM BLOOD %HbA1c-5.2 eAG-103
___ 10:10PM BLOOD TSH-2.3

AED LEVELS:
___ 03:47PM BLOOD Phenoba-34.2 Phenyto-21.8*

TOX SCREEN:
___ 03:47PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

UA/BCX:
___ 08:05PM URINE Color-Straw Appear-Clear Sp ___
___ 08:05PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
   Blood Culture, Routine (Final ___:    NO GROWTH. 

DIAGNOSTICS:
============
___ EEG ___ pending)
IMPRESSION: This was an abnormal continuous video-EEG monitoring 
study due 
to: 
  
1. (a) 1 electrographic seizure consisting of evolving rhythmic 
delta activity without any clear clinical correlates, (b) 
abundant sharp wave epileptiform discharges, frequently in 
periodic runs at a rate of ___ Hz, and (c) runs of rhythmic 
delta activity, all in the left temporal region indicative of 
foci of cortical hyperexcitability associated with high risk of 
seizures. 
  
2. Frequent sharp wave epileptiform discharges and runs of 
rhythmic delta 
activity independently in the right temporal regions indicative 
of additional foci of cortical hyperexcitability associated with 
increased risk for seizures. 
  
3. Continuous theta range slowing of the left hemisphere 
indicative of foci of cerebral dysfunction within the left 
hemisphere. 
  
4. Mild diffuse slowing of background indicative of mild 
encephalopathy 
nonspecific as to etiology. Common causes include medications, 
infections, or hypoxia. 

CTH:
IMPRESSION:  
  
No acute intracranial process.  Stable left frontoparietal 
cystic 
encephalomalacia. 

CXR:
IMPRESSION:  
No acute intrathoracic process. 

 
Brief Hospital Course:
___ year old man with medication-refractory epilepsy
secondary to intrauterine left MCA stroke, unprovoked DVT/PEs on
coumadin, who presents with increased seizure frequency. Seizure
semiology appears consistent with prior seizures, but without
clear trigger. 

Since admission he had no further clinical seizures, but cvEEG 
captured multiple brief electrographic seizures. Given increase 
in seizure frequency without clear cause and rather active EEG 
we increased Keppra from 2g BID to 2.5g BID. Of note there were 
frequent right sided epileptiform discharges without abnormality 
seen on MRI from ___, would consider repeat outpatient 3T MRI 
brain seizure protocol. Can also consider accelerated VNS 
candidacy, although patient expressed doubt regarding VNS during 
admission. On day of discharge, neurological exam is at 
baseline, notable for mild right hemiparesis from old left MCA 
suffered prior to birth. 

Additionally, he was noted to have some difficulty with urinary 
retention and was started on ___ with good effect.

Transitional issues:
========================
[]Follow up with neurology ___
- Increased keppra to 2500 mg BID from ___ mg BID
- Can consider outpatient 3T MRI brain seizure protocol 
[] PCP: 
-started ___ as patient with urinary retention
- Refer to outpatient sleep study as desaturations to 80% O2 
while sleeping

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. LevETIRAcetam ___ mg PO BID 
2. Warfarin ___ mg PO DAILY16 
3. PHENObarbital 64.8 mg PO QPM 
4. PHENObarbital 129.6 mg PO QAM 
5. Phenytoin Sodium Extended 200 mg PO QPM 
6. Phenytoin Sodium Extended 300 mg PO QAM 

 
Discharge Medications:
1.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [___] 0.4 mg 1 capsule(s) by mouth at bedtime 
Disp #*30 Capsule Refills:*3 
2.  LevETIRAcetam 2500 mg PO BID  
3.  PHENObarbital 64.8 mg PO QPM  
4.  PHENObarbital 129.6 mg PO QAM  
5.  Phenytoin Sodium Extended 200 mg PO QPM  
6.  Phenytoin Sodium Extended 300 mg PO QAM  
7.  Warfarin ___ mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for increased seizure frequency. Your 
EEG showed excitability and some very short seizures without any 
associated symptoms. We increased your keppra to 2500mg twice 
per day. You were also started on a medicine called tamsolusin 
(___). This is to help with urinary retention. There were no 
changes made to any of your other medications.

Please follow up with your outpatient neurologist and take your 
medication as prescribed. 

Per MA law you can't drive until 6 month seizure freedom. Please 
avoid high risk activities as well due to increased risk for 
accident.

It was a pleasure taking care of you.

Sincerely,
Your ___ care team
 
Followup Instructions:
___